US08207213B2
{4-[4-[(Difluoromethyl)oxy]-9-(ethyloxy)-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3-fluorophenyl}acetic acid
Ethyl {-4-[4-[(difluoromethyl)oxy]-9-(ethyloxy)-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3-fluorophenyl}acetate (0.60 g, 1.27 mmol) was heated to 100° C. in a 1:1 mixture of acetic acid:2N aqueous hydrochloric acid (20 ml) for 50 minutes. The reaction was cooled to room temperature. On addition of water, the resulting white solid was collected by filtration, washed with water and dried under vacuum to give the title compound (0.516 g, 1.09 mmol).

reactant | Ethyl {-4-[4-[(difluoromethyl)oxy]-9-(ethyloxy)-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3-fluorophenyl}acetate | 1.27 mmol, 0.60 g | FC(OC1=C2C(=C(C=3C(N(CC13)C1=C(C=C(C=C1)CC(=O)OCC)F)=O)OCC)C=CC=C2)F | C25H22F3NO5
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 2N, 20 ml | Cl | ClH
solvent | water | O | H2O
product | {4-[4-[(Difluoromethyl)oxy]-9-(ethyloxy)-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3-fluorophenyl}acetic acid | 1.09 mmol, 0.516 g | FC(OC1=C2C(=C(C=3C(N(CC13)C1=C(C=C(C=C1)CC(=O)O)F)=O)OCC)C=CC=C2)F | C23H18F3NO5
